US03936470
A mixture of 13.6 parts of 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone, 13.1 parts of 3-(2-naphtalenyloxy)-1,2-propanediol, 3 parts of 4-methylbenzenesulfonic acid, 180 parts of benzene and 80 parts of butanol is stirred and refluxed for 12 hours with water-separator. The reaction mixture is evaporated and the residue is triturated in methanol. The product is filtered off and crystallized from 2-propanol, yielding A 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-[(2-naphthalenyloxy)methyl]-1,3-dioxolane; mp. 117.6°C.

reactant | 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 3-(2-naphtalenyloxy)-1,2-propanediol | C1=C(C=CC2=CC=CC=C12)OCC(CO)O | C13H14O3
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
solvent | butanol | C(CCC)O | C4H10O
product | 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-[(2-naphthalenyloxy)methyl]-1,3-dioxolane | BrCC1(OCC(O1)COC1=CC2=CC=CC=C2C=C1)C1=C(C=C(C=C1)Cl)Cl | C21H17BrCl2O3
